2145-09-18 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Peritoneal and blood cultures with GNR
   - Received 6L fluid, lactate unchanged
   - Mental status improving
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-17**] 09:58 PM
   Piperacillin - [**2145-9-18**] 04:36 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-18**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.5
C (97.7
   HR: 103 (102 - 113) bpm
   BP: 67/59(62) {67/49(62) - 112/59(75)} mmHg
   RR: 23 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  2,097 mL
                                                                  3,275 mL
   PO:
   TF:
   IVF:
                                                                  1,447 mL
                                                                  3,275 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                     27 mL
                                                                     95 mL
   Urine:
                                                                     27 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,070 mL
                                                                  3,180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.32/28/235/14/-10
   Physical Examination
   Awake, oriented x1, jaundiced
   RRR, cta b/l
   Abd distention, no ttp
   2+ peripheral pulses
   Labs / Radiology
   48 K/uL
   8.1 g/dL
   99 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.3 mEq/L
   31 mg/dL
   113 mEq/L
   144 mEq/L
   23.6 %
   6.0 K/uL
        [image002.jpg]
                            [**2145-9-17**]  10:16 PM
                            [**2145-9-17**]  11:53 PM
                            [**2145-9-18**]  04:28 AM
                            [**2145-9-18**]  05:10 AM
   WBC
   2.8
   6.0
   Hct
   24.6
   23.6
   Plt
   49
   48
   Cr
   1.2
   1.6
   TCO2
   16
   15
   Glucose
   108
   99
   Other labs: PT / PTT / INR:35.6/59.3/3.7, ALT / AST:31/77, Alk Phos / T
   Bili:24/16.7, Differential-Neuts:65.0 %, Band:8.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:80 mg/dL, Lactic Acid:7.2 mmol/L,
   Ca++:10.0 mg/dL, Mg++:1.7 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: Hapto <20
   Imaging: CXR: diffuse increased pulmonary marking
   Microbiology: - Peritoneal and blood cultures with GNR
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   #. Sepsis: Tachycardia, fevers and hypotension, WBC up to 6. Peritoneal
   and blood cultures positive for gram negative.  Lactate 7.2.  Likely
   SBP but also known UTI and possible PNA.  On day 2 of Vanc/Zosyn Zosyn
   to cover GN, GP (including MRSA) and anaerobes. Will miss [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], VRE
   and ESBLs but low suspicion
   - Levophed prn MAP >60, taper as tolerated
   - Vancomycin to be d/c
d if cultures negative, will adjust for renal
   function
   - continue IVF and assess response in mental status.
   - recheck lactate after 6^th liter, trend
   - f/u UCx, peritonial Cx, blood Cx
   - hold BP meds, including diuretics
   - consider additional central access if unable to resuscitate
   peripherally
   # Acute renal failure: Cr rising with low UOP.  Likely prerenal
   etiology given current sepsis and hypotension vs ATN.  in setting of
   cirrhosis and SBP, concern about development to HRS.
   - [**Hospital1 **] lytes
   - Urine lytes and sediment
   - tx sepsis
   - monitor UOP
   - renal dosing of meds
   # Anemia: Hct persistently downtrending, including inappropriate bump
   to 2U pRBCs on [**9-15**]. Currently 23.8, down from 28 yesterday. EGD with
   portal gastropathy. Source thought to be lower GI tract.  Concern for
   hemolysis vs DIC.
   - transfuse 1U PRBC
   - trend hct [**Hospital1 **]
   - Continue PPI
   - guaiac all stools
   - maintain active T+S
   - tranfuse for HCt < 21 or dropping.
   # Coagulopathy: INR jumped from 2 to 3.7. Platelets stable.  In the
   setting of concurrent thrombocytopenia, anemia, fibrinogen low,
   +shistos, rising Tbili, low hapto concern for DIC, although difficult
   to evaluate in setting of cirrhosis and sepsis.
   - check FDP
   - consider reversing coagulopathy with FFP/plts
   - consider reversal if HCT continues to drop.
   # ESLD: worsening coagulopathy and thrombocytopenia
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   # Hyperbilirubinemia: Predominently unconjugated. Direct coombs
   negative. DDx includes SBP, hemolysis, cirrhosis
   # AMS: Likely hepatic encephalopathy in conjunction with infection and
   poor perfusion in the setting of sepsis.  Now improving but not
   normal.  However constellation of worsening renal function,
   thrombocytopenia, anemia, fevers and AMS is concerning for TTP. Given
   that all these can be explained by more likely causes (sepsis and
   cirrhosis) will check schistos and defer furthur investigation for now.
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. INR > 2 since admission. Given recent GIB anticoagulation
   contraindicated.
   # FEN: IVF prn / replete lytes prn / NPO
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: PICC (single lumen placed [**9-6**]), PIVs, A line
   # CODE: Full (confirmed on admission, unable to confirm on transfer)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-17**] 08:00 PM
   20 Gauge - [**2145-9-17**] 09:15 PM
   Arterial Line - [**2145-9-17**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-19 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Continued pressor requirements but lactate trended down from 7.2 ->
   6.0 -> 5.2 -> 2.8
   -urine lytes show UNA of 12 and UCr of 140, w/ FENA calculated to 0.2,
   suggestive of prerenal etiology
   -transfused 1 unit in AM: PM HCT showed 24 (inapporpriate bump from
   23-> 24 for 1 unit)
   -platelets fell from 48 -> 35, INR increased from 3.7 -> 5.1 and PTT
   relatively stable.  Smear shows 1+ schistocytes.
   -got 10 mg of PO vitamin K X 3 days
   -UOP yesterday 10 cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-9-18**] 04:36 AM
   Vancomycin - [**2145-9-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-19**] 04:48 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-9-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 85 (79 - 98) bpm
   BP: 94/49(61) {94/49(61) - 94/49(61)} mmHg
   RR: 20 (11 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,329 mL
                                                                    402 mL
   PO:
                                                                    920 mL
           TF:
   IVF:
                                                                  6,859 mL
                                                                    202 mL
   Blood products:
                                                                    550 mL
                                                                    200 mL
   Total out:
                                                                  2,005 mL
                                                                     81 mL
   Urine:
                                                                    305 mL
                                                                     81 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,324 mL
                                                                    321 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.33///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   44 K/uL
   8.0 g/dL
   116 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.2 mEq/L
   40 mg/dL
   115 mEq/L
   146 mEq/L
   23.5 %
   7.6 K/uL
        [image002.jpg]
                            [**2145-9-17**]  10:16 PM
                            [**2145-9-17**]  11:53 PM
                            [**2145-9-18**]  04:28 AM
                            [**2145-9-18**]  05:10 AM
                            [**2145-9-18**]  02:14 PM
                            [**2145-9-18**]  09:43 PM
                            [**2145-9-19**]  04:52 AM
   WBC
   2.8
   6.0
   6.3
   7.6
   Hct
   24.6
   23.6
   24.4
   24.1
   23.5
   Plt
   49
   48
   35
   44
   Cr
   1.2
   1.6
   1.2
   1.2
   1.8
   TCO2
   16
   15
   Glucose
   108
   99
   91
   127
   116
   Other labs: PT / PTT / INR:47.6/66.6/5.2, ALT / AST:31/77, Alk Phos / T
   Bili:24/16.7, Differential-Neuts:38.0 %, Band:39.0 %, Lymph:12.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:80 mg/dL, Lactic Acid:2.8 mmol/L,
   Ca++:9.8 mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   #. Sepsis: Improving, w/ reduced pressor requirements, afebrile, with
   lactates falling from 7-> 2.8.  Source: peritoneal and blood cultures
   positive for gram negative organisms.   On day 3 of Zosyn to cover GN
   and anaerobes.
   - Levophed prn MAP >60, taper as tolerated
   - continue IVF and assess response in mental status.
   - trend lactate [**Hospital1 **] today
   - f/u UCx, peritonial Cx, blood Cx and narrow coverage as data returns
   - hold BP meds, including diuretics
   # Oliguric acute renal failure: 1.2 -> 1.8 : Cr rising with low UOP.
   Likely prerenal etiology given response to fluids, low FeNa, low urine
   sodium.  In setting of cirrhosis and SBP, concern about development to
   HRS.
   -Fluid challenges today w/ albumin [**Hospital1 **] today and assess UOP response w/
   goal urine of 30 cc/hr
   - tx underlying sepsis
   - renal dosing of meds, avoid nephrotoxins
   # Anemia: Hct stable.  Differential is GI source (has portal
   gastropathy on prior EGD) versus DIC (lower suspicion as platelets
   stable).
   -F/u coags [**Hospital1 **], fibrinogen, FDP
   - transfuse 1U PRBC this AM
   - trend hct [**Hospital1 **]
   - Continue PPI
   - guaiac all stools
   - maintain active T+S
   - tranfuse for HCt < 21 or dropping.
   .
   # Coagulopathy: INR jumped from 2 to 5.2. Platelets stable.  In the
   setting of concurrent thrombocytopenia, anemia, fibrinogen low,
   +schistos, rising Tbili, low hapto concern for DIC, although difficult
   to evaluate in setting of cirrhosis and sepsis.
   - 1 Unit FFP this AM
   -Follow coags [**Hospital1 **]
   .
   # ESLD: worsening coagulopathy and thrombocytopenia
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   .
   # AMS: Likely hepatic encephalopathy versus delirium secondary to
   underlying infection.
   -Continue lactulose (was held this AM secondary to 3 L of stool output)
   .
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. INR > 5; no anticoagulation indicated.
   .
   # FEN: IVF challenges for oliguria / [**Hospital1 **] lytes / NPO given mental
   status
   .
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   .
   # ACCESS: PICC (single lumen placed [**9-6**]), PIVs, A line
   .
   # CODE: Full (confirmed on admission, unable to confirm on transfer)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-17**] 08:00 PM
   20 Gauge - [**2145-9-17**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-20 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - f/u pressor requirement
   - peritoneal and blood cultures grew pan-sensitive Klebsiella and GNR,
   continued Zosyn
   - continued to make 20cc/hr, worsening creatinine
   - tried to bolus, but worsening respiratory status --> CXR showed
   bilateral infiltrates.  Given Lasix 20, 40, then 80.  Pulmonary status
   improved.  UOP improved but not diuresing,  stooling high volumes.
   - low fibrinogen, FDP pending
   - Hct stable
   - liver recs - no additional recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-9-18**] 04:36 AM
   Vancomycin - [**2145-9-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-20**] 04:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-9-20**] 05:20 AM
   Morphine Sulfate - [**2145-9-20**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-20**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 104 (77 - 104) bpm
   BP: 104/51(63) {82/38(52) - 115/83(93)} mmHg
   RR: 20 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  4,251 mL
                                                                    779 mL
   PO:
                                                                    660 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  2,325 mL
                                                                    179 mL
   Blood products:
                                                                  1,266 mL
                                                                    200 mL
   Total out:
                                                                  2,288 mL
                                                                  1,695 mL
   Urine:
                                                                    388 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,963 mL
                                                                   -916 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Cardiovascular: Gen:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   8.4 g/dL
   117 mg/dL
   2.2 mg/dL
   18 mEq/L
   2.8 mEq/L
   48 mg/dL
   120 mEq/L
   151 mEq/L
   24.3 %
   6.3 K/uL
        [image002.jpg]
                            [**2145-9-17**]  10:16 PM
                            [**2145-9-17**]  11:53 PM
                            [**2145-9-18**]  04:28 AM
                            [**2145-9-18**]  05:10 AM
                            [**2145-9-18**]  02:14 PM
                            [**2145-9-18**]  09:43 PM
                            [**2145-9-19**]  04:52 AM
                            [**2145-9-19**]  03:56 PM
                            [**2145-9-19**]  09:47 PM
                            [**2145-9-20**]  03:30 AM
   WBC
   2.8
   6.0
   6.3
   7.6
   8.0
   6.3
   Hct
   24.6
   23.6
   24.4
   24.1
   23.5
   27.5
   24.3
   Plt
   49
   48
   35
   44
   44
   59
   56
   Cr
   1.2
   1.6
   1.2
   1.2
   1.8
   2.0
   2.2
   TCO2
   16
   15
   Glucose
   108
   99
   91
   127
   116
   121
   117
   Other labs: PT / PTT / INR:35.4/51.0/3.6, ALT / AST:21/38, Alk Phos / T
   Bili:14/13.9, Differential-Neuts:57.0 %, Band:19.0 %, Lymph:12.0 %,
   Mono:8.0 %, Eos:1.0 %, Fibrinogen:117 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:4.7 g/dL, LDH:207 IU/L, Ca++:11.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR - bilateral fluffy infilatrates
   Microbiology: Fluid Culture in Bottles (Final [**2145-9-19**]):
         KLEBSIELLA PNEUMONIAE.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                KLEBSIELLA PNEUMONIAE
                                |
   AMPICILLIN/SULBACTAM--     4 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------   <=1 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   [**2145-9-17**] 10:21 am BLOOD CULTURE      Source: Line-PICC.
      Blood Culture, Routine (Preliminary):
         KLEBSIELLA PNEUMONIAE.
   [**2145-9-17**]   FLUID CULTURE (Preliminary):
         KLEBSIELLA PNEUMONIAE.    RARE GROWTH.
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   #. Sepsis: Improving, off pressors.  Afebrile, with lactates falling
   from 7-> 2.4.  Source: peritoneal and blood cultures positive for
   Klebsiella and GNR anaerobes.  GN and anaerobes.
   - Levophed prn MAP >60
   - narrow coverage to ceftriaxone
   - daily surveillance cultures until negative X 72 hrs
   - avoid IVF as he currently has pulmonary edema
   - trend daily lactate
   - f/u cultures
   - hold BP meds
   # ESLD: worsening coagulopathy and thrombocytopenia
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   - Goals of care:address with  is pt a transplant candidate?
   # Oliguric acute renal failure: 1.2 -> 2.2 : Cr rising with low UOP.
   Unresponsive to fluids.  Low FeNa, low urine sodium, in setting of
   cirrhosis and SBP, concern about HRS.  Maintain BP.
   - continue thru day 3 of albumin
   - start midodrine and octreotide
   - hold fluid, hold albumin given acute pulmonary edema and respiratory
   distress
   - continue lasix
   - tx underlying sepsis
   - renal dosing of meds, avoid nephrotoxins
   #Respiratory distress - pulmonary edema from volume resucitation vs
   ARDS in setting of acute sepsis.  Supporting pulmonary edema is his
   stable O2 saturday Overall left ventricular systolic function is normal
   (LVEF>55%).
   - Pulm edema - attempt diuresis with lasix boluses.  avoid IVF.
   - ARDS - if pulmonary status continues to worsen, and pt requiring
   increased O2, strong suspicion should be given to ARDS with urgent
   intubation
   # Anemia: Transfused one unit with no bump in Hct.  Jump in Hct
   yesterday likely due to lab error or volume shifts and back to
   baseline.   Differential is GI source (has portal gastropathy on prior
   EGD) versus DIC (lower suspicion as platelets stable).
   - trend coags
   - trend hct [**Hospital1 **]
   - Continue PPI
   - maintain active T+S
   - tranfuse for HCt < 21.
   # h/o variceal bleed - Pt may require NG tube given reduced mental
   status and ability to take po.  Continuing only essential medications
   orally.  NG tube was deferred yesterday given h/o varicies and risk of
   rupture.
   - d/w Liver re: placement of NG tube
   - follow [**Hospital1 **] hct
   - maintain INR< 3 and platelets>50
   # Coagulopathy: INR jumped from 2 to 5.2. Platelets stable.  In the
   setting of concurrent thrombocytopenia, anemia, fibrinogen low,
   +schistos, rising Tbili, low hapto concern for DIC, although difficult
   to evaluate in setting of cirrhosis and sepsis.
   -Follow coags [**Hospital1 **]
   -FFP to maintian INR <3 given recent GI bleed, acute blood loss anemia
   - Transfuse platelets < 50
   # AMS: Likely hepatic encephalopathy versus delirium secondary to
   underlying infection.  Now complicated by acute respiratory distress
   which may be causing an acute delirium.
   -Continue lactulose (was held this AM secondary to 3 L of stool output)
   - tx of respiratory distress
   #Electrolyte abnormalities
   -1) Hypernatremia - likely due to heavy GI diuresis with lactulose.
   Would like to give free water boluses orally in [**Doctor Last Name **] of through IV
   given volume over load state and pulmonary edema.  4L free water
   deficit.
   - encourage po fluid intake
   - NG tube to administer fluids
   2)Hypokalemia -  Also thought to be [**1-4**] to agressive GI output from
   lactulose and contraction alkalolsis.  Continues to require lactulose
   for hepatic encephalopathy.
   - continue aggressive repletion.
   3)Hypercalcemia - 12.04 corrected calcium.  Would treat with aggressive
   IVF, but will defer this tx in the acute setting given tenuous
   repiratory function.   Ddx broad, most likely hyperparathyroidism or
   malignancy.
   - check PTH with AM labs
   - if respiratory status stable - would  aggressively diurese
   4) Anion  gap acidosis - Combination of poor lactate excretion and
   acute renal failure.
   - follow lactates
   - trend AG
   - follow renal function
   #Hyperbilirubinemia - elevation of direct and indirect bilirubin.
   Elevation of direct bilirubin suggests hemolysis, perhaps as coponent
   of DIC.  FDP pending.  U/S  on [**9-3**] showed stable thrombosis of the
   left portal vein.  The main portal vein and right portal vein
   demonstrate patency with very slow flow.  Also cholithiasis.
   - trend daily liver enzymes and Bili
   - low threshold to repeat abdominal u/s
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. INR > 5; no anticoagulation indicated.
   # FEN: TID lytes / NPO given mental status
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: PICC (single lumen placed [**9-6**]), PIVs
   # CODE: Full (unable to confirm given encephalopathy)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-19**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-20 09:18:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increased work of breathing and cxr c/w worsening pulmonary edema but
   still oxygenating well on 3L nasal canula
   24 Hour Events:
   Some improvement in urine output with lasix - 40-60cc per hour
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-9-18**] 04:36 AM
   Vancomycin - [**2145-9-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-20**] 04:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-9-20**] 05:20 AM
   Morphine Sulfate - [**2145-9-20**] 05:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: Wheeze
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-9-20**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 88 (77 - 104) bpm
   BP: 103/69(76) {82/38(52) - 115/83(93)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,251 mL
                                                                    846 mL
   PO:
                                                                    660 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  2,325 mL
                                                                    246 mL
   Blood products:
                                                                  1,266 mL
                                                                    200 mL
   Total out:
                                                                  2,288 mL
                                                                  1,835 mL
   Urine:
                                                                    388 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,963 mL
                                                                   -989 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   throughout, Rhonchorous: throughout)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   56 K/uL
   117 mg/dL
   2.2 mg/dL
   18 mEq/L
   2.8 mEq/L
   48 mg/dL
   120 mEq/L
   151 mEq/L
   24.3 %
   6.3 K/uL
        [image002.jpg]
                            [**2145-9-17**]  10:16 PM
                            [**2145-9-17**]  11:53 PM
                            [**2145-9-18**]  04:28 AM
                            [**2145-9-18**]  05:10 AM
                            [**2145-9-18**]  02:14 PM
                            [**2145-9-18**]  09:43 PM
                            [**2145-9-19**]  04:52 AM
                            [**2145-9-19**]  03:56 PM
                            [**2145-9-19**]  09:47 PM
                            [**2145-9-20**]  03:30 AM
   WBC
   2.8
   6.0
   6.3
   7.6
   8.0
   6.3
   Hct
   24.6
   23.6
   24.4
   24.1
   23.5
   27.5
   24.3
   Plt
   49
   48
   35
   44
   44
   59
   56
   Cr
   1.2
   1.6
   1.2
   1.2
   1.8
   2.0
   2.2
   TCO2
   16
   15
   Glucose
   108
   99
   91
   127
   116
   121
   117
   Other labs: PT / PTT / INR:35.4/51.0/3.6, ALT / AST:21/38, Alk Phos / T
   Bili:14/13.9, Differential-Neuts:57.0 %, Band:19.0 %, Lymph:12.0 %,
   Mono:8.0 %, Eos:1.0 %, Fibrinogen:117 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:4.7 g/dL, LDH:207 IU/L, Ca++:11.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR: worsening bilateral airspace opacities
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   57 yo man with EtOH/cirrhosis her with septic shock (now off pressors)
   due to Klebsiella SBP/bacteremia, renal failure possibly due HRS, with
   developing pulmonary edema
   1. Septic shock: BP stable, off pressors, continue Zosyn
   2. Acute renal failure: Is making some urine. Given worsening pulmonary
   edema, will try to diurese
   3. Respiratory Failure: CXR and clinical picture c/w pulmonary edema -
   diuresis as above
   4. Hepatic encephalopathy/cirrhosis: Has large amount of stool with
   increasing sodium - will hold lactolose, also mental status is making
   po's more risky for aspiration.  LFTs stable.
   5. Hypernatremia: Worsened today - increase fH20 repletion
   6. Hypercalcemia: Will trend as we attempt to diurese
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-19**] 06:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2145-09-21 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PM labs with continued hyperNa -> given 2L D5W -> Na 149, Ca [**46**]
   ->10.8, K 3.3 -> 60mEq KCl -> 3.9
   - UOP improved today without additional lasix bolus
   - FE urea = 44%
   - renal recs: ATN unlikely, more prerenal, but perhaps a combination
   - liver: NG tube- follow up tomorrow if ok to place NG with varices
   - f/u PTH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-20**] 04:04 AM
   Ceftriaxone - [**2145-9-20**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-21**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 95 (87 - 103) bpm
   BP: 99/54(64) {94/47(62) - 133/87(90)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,571 mL
                                                                     32 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,971 mL
                                                                     32 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,055 mL
                                                                    630 mL
   Urine:
                                                                  2,955 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,484 mL
                                                                   -598 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.35/35/84.[**Numeric Identifier 1132**]/20/-5
   Physical Examination
   Sleepy, obtunded, mumbles
   RRR, diffuse crackles and wheezing
   Abdominal distention
   2+ peripheral edema, good pulses
   Labs / Radiology
   47 K/uL
   9.3 g/dL
   100 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.7 mEq/L
   50 mg/dL
   121 mEq/L
   151 mEq/L
   27.6 %
   7.4 K/uL
        [image002.jpg]
                            [**2145-9-18**]  02:14 PM
                            [**2145-9-18**]  09:43 PM
                            [**2145-9-19**]  04:52 AM
                            [**2145-9-19**]  03:56 PM
                            [**2145-9-19**]  09:47 PM
                            [**2145-9-20**]  03:30 AM
                            [**2145-9-20**]  11:59 AM
                            [**2145-9-20**]  03:50 PM
                            [**2145-9-20**]  07:53 PM
                            [**2145-9-21**]  03:25 AM
   WBC
   6.3
   7.6
   8.0
   6.3
   6.8
   7.9
   7.4
   Hct
   24.4
   24.1
   23.5
   27.5
   24.3
   27.3
   28.2
   27.6
   Plt
   35
   44
   44
   59
   56
   55
   50
   47
   Cr
   1.2
   1.2
   1.8
   2.0
   2.2
   2.2
   2.3
   2.2
   TCO2
   20
   Glucose
   91
   127
   116
   121
   117
   134
   116
   100
   Other labs: PT / PTT / INR:35.9/52.6/3.7, ALT / AST:19/31, Alk Phos / T
   Bili:20/13.0, Differential-Neuts:57.0 %, Band:19.0 %, Lymph:12.0 %,
   Mono:8.0 %, Eos:1.0 %, Fibrinogen:115 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:4.7 g/dL, LDH:207 IU/L, Ca++:10.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR: diffuse patchy opacities, greater in upper lobes
   Microbiology: Peritoneal, Blood Cx x2: KLEBSIELLA PNEUMONIAE, pan
   sensitive
   Urine Cx negative
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   #. Sepsis: Improving, off pressors, afebrile, with lactates falling
   from 7-> 2.0.  Source: peritoneal and blood cultures positive for
   Klebsiella Pneumoniae. Urine Cx negative.  Changed Zosyn to ceftriaxone
   yesterday, now day 2 (day 4 total Abx)
   - Continue to moniter mental status and UOP
   - Levophed prn MAP >60
   - surveillance blood cultures
   - hold BP meds, including diuretics
   #Altered mental status: combination of hepatic encephalopathy,
   metabolic abnormalities, infection, hypotension, concern for hemorrhage
   given limited improvement.
   -  CT head
   -  Give lactulose for HE, if unable to take PO, give PR
   -  treat infection as above
   # Acute renal failure: Cr rising but good UOP 123cc/hr.  FE Urea 44%,
   renal consult obtained: likely prerenal etiology but also some
   component of ATN.  In setting of cirrhosis and SBP, concern for HRS but
   given rapid onset, unlikely at this time.
   - Continue to monitor UOP, adequate for now.
   - S/p 3d albumin
   - tx underlying sepsis
   - Monitor [**Hospital1 **]
   #. Respiratory Distress: CXR concerning for fluid overload however
   given pattern will also consider TRALI and diffuse alveolar hemorrhage,
   however is maintaining sats well on nasal cannula
   -  Ct Chest
   #Hypernatremia: Na elevated to 151, free water deficit 3.3L, received
   2L D5W.  Getting additional 1L now.
   - lytes [**Hospital1 **]
   - If high, continue D5W or if gets NG can give free water flushes
   # Anemia: Hct stable.  Differential is GI source (has portal
   gastropathy on prior EGD) versus DIC (lower suspicion as platelets
   stable).  Transfused 1U PRBC with appropriate Hct bump, now stable.
   - trend hct [**Hospital1 **]
   - Continue PPI
   - guaiac all stools
   - NG lavage if ok to place NG tube
   - maintain active T+S
   - tranfuse for HCt < 21 or dropping.
   # Coagulopathy: INR decreasing now 3.7 s/p 1U FFP. Platelets stable.
   In the setting of concurrent thrombocytopenia, anemia, fibrinogen low,
   +schistos, rising Tbili, low hapto concern for DIC, although difficult
   to evaluate in setting of cirrhosis and sepsis.  Fibrinogen 114.
   - F/u coags [**Hospital1 **], FDP.
   # AMS: Likely hepatic encephalopathy versus delirium secondary to
   underlying infection.
   -Continue lactulose (was held this AM secondary to 3 L of stool output)
   # ESLD: worsening coagulopathy and thrombocytopenia
   - Follow liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. No anticoagulation indicated.
   # FEN: IVF challenges for oliguria / [**Hospital1 **] lytes / NPO given mental
   status
   - Consider NG placement for TF
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: PICC (single lumen placed [**9-6**]), PIVs, A line
   # CODE: Full (confirmed on admission, unable to confirm on transfer)
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-19**] 06:52 PM
   20 Gauge - [**2145-9-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-21 09:40:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, Spontaneous bacterial peritonitis,
   Delirium/Encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mental status unimproved
   24 Hour Events:
   Making urine - 1.5L negative yesterday
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-20**] 04:04 AM
   Ceftriaxone - [**2145-9-20**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Respiratory: Wheeze
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**12-4**] Minimal
   Flowsheet Data as of  [**2145-9-21**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (87 - 103) bpm
   BP: 108/65(70) {98/47(62) - 133/87(90)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,571 mL
                                                                     47 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,971 mL
                                                                     47 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,055 mL
                                                                  1,290 mL
   Urine:
                                                                  2,955 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,484 mL
                                                                 -1,243 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.35/35/84.[**Numeric Identifier 1132**]/20/-5
   Physical Examination
   General Appearance: mild resp distress,
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   throughout, Wheezes : loud expiratory throughout)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   47 K/uL
   100 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.7 mEq/L
   50 mg/dL
   121 mEq/L
   151 mEq/L
   27.6 %
   7.4 K/uL
        [image002.jpg]
                            [**2145-9-18**]  02:14 PM
                            [**2145-9-18**]  09:43 PM
                            [**2145-9-19**]  04:52 AM
                            [**2145-9-19**]  03:56 PM
                            [**2145-9-19**]  09:47 PM
                            [**2145-9-20**]  03:30 AM
                            [**2145-9-20**]  11:59 AM
                            [**2145-9-20**]  03:50 PM
                            [**2145-9-20**]  07:53 PM
                            [**2145-9-21**]  03:25 AM
   WBC
   6.3
   7.6
   8.0
   6.3
   6.8
   7.9
   7.4
   Hct
   24.4
   24.1
   23.5
   27.5
   24.3
   27.3
   28.2
   27.6
   Plt
   35
   44
   44
   59
   56
   55
   50
   47
   Cr
   1.2
   1.2
   1.8
   2.0
   2.2
   2.2
   2.3
   2.2
   TCO2
   20
   Glucose
   91
   127
   116
   121
   117
   134
   116
   100
   Other labs: PT / PTT / INR:35.9/52.6/3.7, ALT / AST:19/31, Alk Phos / T
   Bili:20/13.0, Differential-Neuts:57.0 %, Band:19.0 %, Lymph:12.0 %,
   Mono:8.0 %, Eos:1.0 %, Fibrinogen:115 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:4.7 g/dL, LDH:207 IU/L, Ca++:10.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR with increased bilateral upper lobe infiltrates
   Microbiology: Blood x2 and peritoneal fluid growing pan-[**Last Name (un) 206**] Klebsiella
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   57 yo man with EtOH/cirrhosis her with septic shock (now off pressors)
   due to Klebsiella SBP/bacteremia, renal failure possibly due HRS, with
   exam and CXR c/w ongoing pulmonary edema
   1. Septic shock: BP stable, off pressors.  Cont Zosyn
   2. Acute renal failure: Cr stable - continue efforts at diuresis
   3. Respiratory Failure: Still concerned for pulmonary edema.  Will
   diurese and also give bronchodilators
   4. Hepatic encephalopathy/cirrhosis: Restart lactulose when NG tube
   placed. Will get head CT today given ongoing poor mental status. (Will
   also scan chest if he is traveling to scanner given persistent iand
   worsening infiltrates)
   5. Hypernatremia: Will increase fH20 - no improvement in sodium with
   increase yesterday
   6. Hypercalcemia: Lower today
   7. Anemia: Serial Hcts
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-19**] 06:52 PM
   20 Gauge - [**2145-9-20**] 09:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-09-22 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - chest CT read:  marked interlobar thickening, central opacification
   w/ predilection for apices/upper lobes specifically, base of right
   lower lobe also involved; also describes "crazy pavement" appearance -
   diff dx is acute hemorrhage vs TRALI vs infection . . . BAL
   recommended.
   -given above CT, abx coverage expanded to adding vancomycin (continued
   ceftriaxone)
   -tested for influenza and placed on respiratory precautions
   -given above CT and suspicion of fluid overload, started lasix drip.
   Is and Os at end of day were: -300 mL; making good urine to 2 cc/hr of
   lasix (200-300 cc/hr): is still 8 L positive overall
   -For high Na got 1.5 L D5W in AM and increased free water flushes from
   200 - > 250 q4
   -given persistent encephalopathy, NG tube placed for admin of
   lactulose, liver said okay to place despite varices: ABG obtained for
   continued MS change:  pH 7.36  pC02 38 pO2 60
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-20**] 04:04 AM
   Ceftriaxone - [**2145-9-21**] 12:00 PM
   Vancomycin - [**2145-9-21**] 05:03 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2145-9-21**] 02:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-22**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 102 (92 - 108) bpm
   BP: 124/83(93) {104/44(33) - 131/88(96)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.5 kg (admission): 87 kg
             Total In:
                                                                  3,441 mL
                                                                    526 mL
   PO:
             TF:
                                                                    120 mL
                                                                    143 mL
   IVF:
                                                                  2,621 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  4,380 mL
                                                                  1,380 mL
   Urine:
                                                                  4,380 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -939 mL
                                                                   -853 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.38/32/69/20/-4
   PaO2 / FiO2: 138
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   9.9 g/dL
   144 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   48 mg/dL
   120 mEq/L
   149 mEq/L
   29.6 %
   6.8 K/uL
        [image002.jpg]
                            [**2145-9-19**]  03:56 PM
                            [**2145-9-19**]  09:47 PM
                            [**2145-9-20**]  03:30 AM
                            [**2145-9-20**]  11:59 AM
                            [**2145-9-20**]  03:50 PM
                            [**2145-9-20**]  07:53 PM
                            [**2145-9-21**]  03:25 AM
                            [**2145-9-21**]  02:53 PM
                            [**2145-9-21**]  06:05 PM
                            [**2145-9-22**]  02:30 AM
   WBC
   8.0
   6.3
   6.8
   7.9
   7.4
   7.7
   6.8
   Hct
   27.5
   24.3
   27.3
   28.2
   27.6
   28.7
   29.6
   Plt
   44
   59
   56
   55
   50
   47
   47
   40
   Cr
   2.0
   2.2
   2.2
   2.3
   2.2
   1.8
   1.4
   TCO2
   20
   20
   Glucose
   121
   117
   134
   116
   100
   151
   144
   Other labs: PT / PTT / INR:38.3/54.8/4.0, ALT / AST:18/31, Alk Phos / T
   Bili:27/13.9, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:5.0 %, Fibrinogen:115 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:4.7 g/dL, LDH:303 IU/L, Ca++:10.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Microbiology: [**9-17**] - peritoneal fluid and blood cxs positive for
   pan-sensitive Klebsiella PNA
   Assessment and Plan
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   -TRALI seems less likely: last transfusion [**9-18**], progression of CXRs,
   looks too bad to be 4 days out: will need blood bank consult tomorrow
   for investigation
   #. Sepsis: Improving, off pressors, afebrile, with lactates falling
   from 7-> 2.0.  Source: peritoneal and blood cultures positive for
   Klebsiella Pneumoniae. Urine Cx negative.  On ceftriaxone, day 5 of
   abx.  Will need to complete 2 wk course after first negative blood
   culture.
   -Continue abx as above
   -f/u surveillance blood cxs
   -hold BP meds, including diuretics
   #Hypoxia - Last blood gas 7.38, 32,  69 on 5 L O2 NC.  Underlying CXR
   suggestive of diffuse upper lobe disease bilaterally; CT confirms
   diffuse bilateral disease, w/ predilection for upper lobes and apices
   in "crazy pavement pattern" with interlobar thickening, although some
   involvement of RL lobe w/ ground glass pattern.   Diff dx is alveolar
   hemorrhage vs infectious process vs transfusion related lung injury.
   -For possibility of TRALI:  Generally, TRALI starts within 1-2 hrs of
   tranfusion and has occurred within 6 hours of transfusion and resolves
   in average of 4 days. Received 2 U on [**9-15**] unit on [**9-18**], and 1
   unit on [**9-19**]. Abnormalities picked up on CXR on [**9-19**] in evening, seem
   less significant on morning of [**9-19**].  What makes this less likely is
   that his CT is quite poor w/ continued diffuse disease 3 days after
   suspected insult, however, it is not unheard of for a minority of
   patients to have persistent disease within 1 wk of insult.  Tx is
   supportive: there is insufficient data to recommend steroid
   administration, so would hold off on steroids, especially since
   infection is on differential.
   -Given infectious etiology is a possibility, currently expanded
   coverage to vancomycin + ceftriaxone.  On day 2 of vanc, would complete
   8 day course for vanc, 2 week course for ceftriaxone.  Need to increase
   dose of ceftriaxone for SBP doses until 5 total days of abx for SBP are
   complete, can then return to regular doses of ceftriaxone to complete 2
   wk course.
   -Ruling out influenza, legionella
   -Started lasix drip yesterday; unclear if CT could be consistent w/
   pulmonary edema, is +7 L, clinically has extremity edema; would
   continue diuresis w/ goal of -2 L today as renal function continues to
   improve.  Follow Is and Os tonight, and repeat Cr and continue diuresis
   as long as Cr is not rising.
   .
   #Altered mental status: Diff dx is hepatic encephalopathy versus
   delirium from underlying infection vs vascular event.
   - Give lactulose for HE, if unable to take PO, give PR
   - Continue vancomycin + ceftriaxone to tx underlying infection
   - F/u surveillance cultures, urine cultures
   .
   # Acute renal failure: Cr 2.2 -> 1.8 -> 1.4.  FE Urea 44%, renal
   consult obtained: likely prerenal etiology but also some component of
   ATN, given hx of hypoTN.  Hepatorenal less likely given response to
   fluids.
   -asked renal about RBC casts in urine, given high number of RBCs and ?
   of pulm hemorrhage; they felt RBCs were present but not dysmorphic, no
   casts, so suspicion for GN very low
   - Continue to monitor UOP, almost 125 cc/hr
   - tx underlying sepsis; avoid nephrotoxic agents, avoid hypotension
   -trend daily creatinine
   .
   #Hypernatremia
   -Continue free water flushes 250q4
   -50 cc of D5W this AM; follow Na tonight and give additional free water
   if > 150
   .
   # Anemia: Hct stable.  Differential is GI source (has portal
   gastropathy on prior EGD) versus DIC (lower suspicion as platelets
   stable).  Transfused 1U PRBC with appropriate Hct bump, now stable.
   - trend hct daily
   - Continue PPI
   - maintain active T+S
   - tranfuse for HCt < 21 or dropping.
   # Coagulopathy: Stable
   - Coags daily
   .
   # ESLD
   - Follow liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   .
   # FEN: IVF for hypernatremia, [**Hospital1 **] lytes, getting TF
   .
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: PICC (single lumen placed [**9-6**]), PIVs, A line
   # CODE: Full (confirmed on admission, unable to confirm on transfer)
   # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-21**] 06:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-19**] 06:52 PM
   20 Gauge - [**2145-9-20**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-22 09:33:00 Physician Attending Progress Note
Chief Complaint: Spontaneous bacterial peritonitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CT scan yesterday - shows intersitial/alveolar infiltrate, somehat
   crazy pavimg in appearance, predominantly in upper ;obes
   24 Hour Events:
   About 1L negative yesterday on Lasix gtt
   Now on 50% face mask
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-20**] 04:04 AM
   Ceftriaxone - [**2145-9-21**] 12:00 PM
   Vancomycin - [**2145-9-21**] 05:03 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2145-9-21**] 02:24 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-9-22**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 95 (92 - 108) bpm
   BP: 111/60(71) {104/44(33) - 131/88(96)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 87 kg
             Total In:
                                                                  3,441 mL
                                                                  1,027 mL
   PO:
             TF:
                                                                    120 mL
                                                                    183 mL
   IVF:
                                                                  2,621 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  4,380 mL
                                                                  1,720 mL
   Urine:
                                                                  4,380 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -939 mL
                                                                   -693 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.38/32/69/20/-4
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), early
   systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   loud expiratory wheeze throughout, Rhonchorous: extensive throughout)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, does wake
   and track in response to voice to voice
   Labs / Radiology
   9.9 g/dL
   40 K/uL
   144 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   48 mg/dL
   120 mEq/L
   149 mEq/L
   29.6 %
   6.8 K/uL
        [image002.jpg]
                            [**2145-9-19**]  03:56 PM
                            [**2145-9-19**]  09:47 PM
                            [**2145-9-20**]  03:30 AM
                            [**2145-9-20**]  11:59 AM
                            [**2145-9-20**]  03:50 PM
                            [**2145-9-20**]  07:53 PM
                            [**2145-9-21**]  03:25 AM
                            [**2145-9-21**]  02:53 PM
                            [**2145-9-21**]  06:05 PM
                            [**2145-9-22**]  02:30 AM
   WBC
   8.0
   6.3
   6.8
   7.9
   7.4
   7.7
   6.8
   Hct
   27.5
   24.3
   27.3
   28.2
   27.6
   28.7
   29.6
   Plt
   44
   59
   56
   55
   50
   47
   47
   40
   Cr
   2.0
   2.2
   2.2
   2.3
   2.2
   1.8
   1.4
   TCO2
   20
   20
   Glucose
   121
   117
   134
   116
   100
   151
   144
   Other labs: PT / PTT / INR:38.3/54.8/4.0, ALT / AST:18/31, Alk Phos / T
   Bili:27/13.9, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:5.0 %, Fibrinogen:115 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:4.7 g/dL, LDH:303 IU/L, Ca++:10.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR: worsening diffuse infiltrates this AM
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   57 yo man with EtOH/cirrhosis her with septic shock (now off pressors)
   due to Klebsiella SBP/bacteremia, renal failure possibly due HRS, with
   exam and CXR c/w ongoing pulmonary edema
   1. Septic shock: BP stable.  Cont vanc/CTX
   2. Acute renal failure: Cr continues to drop.
   3. Respiratory Failure: CT scan shows dense infiltrates with crazy
   paving pattern.  DDx is still includes pulmonary edema (now less
   likely) but multiple other possibilities now in play including TRALI,
   viral pneumonia, DAH, multifocal pneumonia.  Pattern c/w PAP but
   nothing else in clinical picture consistent at this point.  Cont
   vanc/CTX.  Bronchoscopy if he ends up intubated but too tenuous for
   unintubated bronchoscopy.  Hold on steroids for now.  Recheck
   differential.  Transfusion reaction workup.  Cont to diurese as
   tolerated.
   4. Hepatic encephalopathy/cirrhosis: Lactulose via NGT.
   5. Hypernatremia: Cont fH20 repletion
   6. Hypercalcemia: Stable
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-21**] 06:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   22 Gauge - [**2145-9-19**] 06:52 PM
   20 Gauge - [**2145-9-20**] 09:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-09-23 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Due to increasing respiratory distress, was non-emergently intubated
   in PM.
   - BAL non bloody, was positive for proteinaceous material that cleared.
   - PM lytes - still hypernatremic (Na 152), worsening renal function.
   Started on D5W at 75 ccs/hr
   - Blood cultures negative.  Urine legionella, urine cultures, Viral
   panel, Sputum and BAL negative
   - reduced urine output in PM, bolused NS given flat neck veins, stopped
   lasix drip. Urine output continued to remain poor.  Kept him on
   standing fluids as fast as possible, until UOP picks up.
   - blood bank consulted for ? TRALI but left no note
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-22**] 10:00 AM
   Vancomycin - [**2145-9-22**] 05:22 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-9-22**] 01:36 PM
   Fentanyl - [**2145-9-22**] 01:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-23**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 85 (82 - 105) bpm
   BP: 114/50(71) {100/44(62) - 141/69(95)} mmHg
   RR: 22 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 87 kg
             Total In:
                                                                  3,234 mL
                                                                  2,891 mL
   PO:
             TF:
                                                                    440 mL
                                                                    289 mL
   IVF:
                                                                  1,864 mL
                                                                  2,602 mL
   Blood products:
   Total out:
                                                                  3,254 mL
                                                                    260 mL
   Urine:
                                                                  2,254 mL
                                                                    260 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    -20 mL
                                                                  2,631 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 514 (514 - 514) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.29/39/76.[**Numeric Identifier 433**]/19/-6
   Ve: 8.9 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   33 K/uL
   9.0 g/dL
   243 mg/dL
   1.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   51 mg/dL
   123 mEq/L
   150 mEq/L
   26.4 %
   7.1 K/uL
        [image002.jpg]
                            [**2145-9-21**]  06:05 PM
                            [**2145-9-22**]  02:30 AM
                            [**2145-9-22**]  09:40 AM
                            [**2145-9-22**]  02:04 PM
                            [**2145-9-22**]  04:16 PM
                            [**2145-9-22**]  04:30 PM
                            [**2145-9-22**]  05:55 PM
                            [**2145-9-22**]  06:25 PM
                            [**2145-9-23**]  02:40 AM
                            [**2145-9-23**]  05:48 AM
   WBC
   7.7
   6.8
   7.1
   Hct
   28.7
   29.6
   26.4
   Plt
   47
   40
   33
   Cr
   1.8
   1.4
   1.8
   1.9
   1.9
   TCO2
   21
   22
   21
   20
   20
   Glucose
   151
   144
   168
   123
   243
   Other labs: PT / PTT / INR:43.6/54.8/4.6, ALT / AST:18/31, Alk Phos / T
   Bili:27/13.9, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:6.0 %, Eos:0.0 %, Fibrinogen:115 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:4.7 g/dL, LDH:303 IU/L, Ca++:10.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   .
   #Hypoxia - Last blood gas 7.29 39 76  on ASSIST w/ TV 550, PEEP of 5,
   FiO2 of 50%.  Initial abnormalities seen on CXR from [**9-19**]; chest CT
   showed bilateral upper lobe involvement w/ interlobar thickening and
   airspace disease in "crazy pavement" pattern that has progressively
   worsened over last four days, now appears to involve the entire lung
   field bilaterally.  Diff dx is infectious pneumonia versus alveolar
   hemorrhage vs transfusion related lung injury versus pulmonary edema.
   BAL yesterday was nonbloody making alveolar hemorrhage less likely;
   TRALI less likely given worsening rather than resolution; so most
   likely causes are infectious and/or pulmonary edema.
   -Currently on vancomycin + ceftriaxone: would expand coverage to
   include pseudomonas and atypicals: switch ceftriaxone to cefepime and
   add ciprofloxacin.
   -Clinically has extremity edema; Stopped lasix drip as UOP seems to
   have dropped off and Cr has risen from 1.4 -> 1.9.  Unable to diurese
   given oliguria.  Need resolution of oliguria per below for further
   management of pulm edema.
   .
   #Oliguria and renal failure:  Cr has risen from 1.4 -> 1.9.  Not
   responsive to fluid boluses last PM.  UOP has decreased to 35 cc/hr.
   FeNa ~ 10 and UNa is 124, suggestive of ATN possibly secondary to
   sepsis.   Unlikely to respond to further fluids given likely ATN.
   -Would follow Is and Os today
   -Avoid nephrotoxins, hypoperfusion
   -If still not making urine by end of day, consider renal input.
   .
   #. Sepsis: Improving, off pressors, afebrile, with lactates falling
   from 7-> 2.0.  Source: peritoneal and blood cultures positive for
   Klebsiella Pneumoniae. Urine Cx negative.  On ceftriaxone, day 5 of
   abx.  Will need to complete 2 wk course after first negative blood
   culture.
   -Continue abx as above
   -f/u cxs
   -hold BP meds
   .
   #Altered mental status: Diff dx is hepatic encephalopathy versus
   delirium from underlying infection vs vascular event.
   - Give lactulose for HE, if unable to take PO, give PR
   - Continue abx as above
   - F/u cxs
   .
   #Hypernatremia
   -Continue free water flushes 250q4
   -Continue 75 ccs D5W/hr
   .
   # Anemia: Hct drifting down from 29 -> 26. Differential is GI source
   (has portal gastropathy on prior EGD) versus DIC  (although less likely
   given absence of schistos), INR increasing.
   - HCT [**Hospital1 **]
   - Guiaic all stools
   - Continue PPI
   - maintain active T+S
   - tranfuse for HCt < 21 or further precipitous drop.
   .
   # Coagulopathy: Stable
   - Coags daily
   .
   # ESLD
   - Follow liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   .
   # FEN: IVF for hypernatremia, [**Hospital1 **] lytes, getting TF
   .
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: PICC (single lumen placed [**9-6**]), PIVs, A line
   # CODE: Full (confirmed on admission, unable to confirm on transfer)
   # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-22**] 09:59 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-17**] 07:40 PM
   20 Gauge - [**2145-9-20**] 09:00 AM
   Arterial Line - [**2145-9-22**] 01:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-24 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - bladder pressure 32->16
   - renal recs: continue D5, albumin for volume, avoid aggressive
   diuresis
   - liver recs: continue rifaximin and lactulose, no new recs
   - PICC replaced with double lumen power picc
   - started cipro/cefepime
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-22**] 10:00 AM
   Vancomycin - [**2145-9-23**] 08:00 PM
   Ciprofloxacin - [**2145-9-24**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-24**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 90 (86 - 92) bpm
   BP: 98/50(65) {91/43(58) - 129/66(88)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 87 kg
    Bladder pressure: 16 (16 - 32) mmHg
   Total In:
                                                                  5,530 mL
                                                                    908 mL
   PO:
   TF:
                                                                  1,134 mL
                                                                    304 mL
   IVF:
                                                                  3,646 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    120 mL
   Urine:
                                                                    480 mL
                                                                    120 mL
   NG:
   Stool:
                                                                    920 mL
   Drains:
   Balance:
                                                                  4,130 mL
                                                                    788 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 526 (526 - 526) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.34/32/101/19/-7
   Ve: 12.2 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   28 K/uL
   9.3 g/dL
   187 mg/dL
   2.3 mg/dL
   19 mEq/L
   3.8 mEq/L
   58 mg/dL
   120 mEq/L
   147 mEq/L
   27.7 %
   10.2 K/uL
        [image002.jpg]
                            [**2145-9-22**]  02:04 PM
                            [**2145-9-22**]  04:16 PM
                            [**2145-9-22**]  04:30 PM
                            [**2145-9-22**]  05:55 PM
                            [**2145-9-22**]  06:25 PM
                            [**2145-9-23**]  02:40 AM
                            [**2145-9-23**]  05:48 AM
                            [**2145-9-23**]  03:05 PM
                            [**2145-9-24**]  02:54 AM
                            [**2145-9-24**]  03:10 AM
   WBC
   7.1
   10.2
   Hct
   26.4
   27.7
   Plt
   33
   28
   Cr
   1.8
   1.9
   1.9
   2.3
   TCO2
   22
   21
   20
   20
   21
   18
   Glucose
   168
   123
   243
   187
   Other labs: PT / PTT / INR:39.0/62.2/4.1, ALT / AST:18/31, Alk Phos / T
   Bili:27/10.3, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:6.0 %, Eos:0.0 %, Fibrinogen:115 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.0 g/dL, LDH:303 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: - FE urea: 15%
   Imaging: CXR:
   Microbiology: BAL pending
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   .
   #Hypoxia - CT with interlobar thickening and airspace disease.  Ddx:
   infection, pulm edema.  BAL negative for blood so diffuse alveolar
   hemorrhage less likely, also given time course TRALI unlikely, however
   CXR with improvement today.  Antibiotics broadened yesterday to
   cefepime and cipro, plus vanc
   - D/c cipro/cefepime, add back ceftriaxone
   - Difficult to diurese [**1-4**] renal fxn, see below
   .
   #Oliguria and renal failure:  Cr has risen from 1.4 -> 2.3.  UOP has
   decreased to 20 cc/hr.  FeNa ~ 10 and UNa is 124, suggestive of ATN
   possibly secondary to sepsis.   Unlikely to respond to further fluids
   given likely ATN.
   - Albumin for volume resuscitation
   - Continue to monitor UOP
   -Avoid nephrotoxins, hypoperfusion
   .
   #. Sepsis: Known SBP and bacteremia with Klebsiella Pneumoniae. Concern
   for pulmonary infection, abx broadened, now day 6.  Urine Cx negative.
   Will need to complete 2 wk course after first negative blood culture.
   -Continue abx as above
   -f/u cxs
   -hold BP meds
   .
   #Altered mental status: Diff dx is hepatic encephalopathy versus
   delirium from underlying infection.
   - Give lactulose for HE, if unable to take PO, give PR
   - Continue abx as above
   - F/u cxs
   .
   #Hypernatremia: improving
   -Continue free water flushes 250q4
   -Continue 75 ccs D5W/hr
   .
   # Anemia: Hct drifting down but now stable. H/o portal gastropathy on
   prior EGD, could be source given elevated INR.
   - HCT [**Hospital1 **]
   - Guiaic all stools
   - Continue PPI
   - maintain active T+S
   - tranfuse for HCt < 21 or further precipitous drop.
   # Coagulopathy: Stable
   - Coags daily
   # ESLD
   - Follow liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   # FEN: IVF for hypernatremia, [**Hospital1 **] lytes, getting TF
   .
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: Double lumen PICC, PIVs, A line
   # CODE: Full (confirmed on admission, unable to confirm on transfer)
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-9-20**] 09:00 AM
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-25 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -given poor UOP in AM, got albumin 50 g -> UOP improved; repeated
   albumin in evening, placed on albumin 50 g [**Hospital1 **]
   -narrowed Vanc and cefepime regimen to just ceftriaxone
   -got D5W 1 L: evening Na improved from 147 -> 144
   -multiple cxs still pending, PCP negative, legionella negative
   -platelets fell 33 -> 22 over last 24 hrs, although low prob, still
   sent for HIT;  all heparin products stopped
   -UOP 25 cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-23**] 08:00 PM
   Ciprofloxacin - [**2145-9-24**] 12:00 AM
   Ceftriaxone - [**2145-9-24**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-25**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 84 (81 - 89) bpm
   BP: 107/49(69) {91/44(61) - 126/55(77)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 87 kg
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  4,422 mL
                                                                  1,216 mL
   PO:
   TF:
                                                                  1,567 mL
                                                                    477 mL
   IVF:
                                                                  1,255 mL
                                                                    599 mL
   Blood products:
                                                                    100 mL
                                                                     50 mL
   Total out:
                                                                  2,406 mL
                                                                  1,480 mL
   Urine:
                                                                    606 mL
                                                                    380 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  2,016 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 785 (785 - 785) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 11 cmH2O
   Plateau: 0 cmH2O
   SpO2: 99%
   ABG: ///17/
   Ve: 11.1 L/min
   Physical Examination
   Cardiovascular: Gen: NAD
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   29 K/uL
   8.4 g/dL
   174 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.7 mEq/L
   60 mg/dL
   115 mEq/L
   142 mEq/L
   24.6 %
   10.4 K/uL
        [image002.jpg]
                            [**2145-9-22**]  04:30 PM
                            [**2145-9-22**]  05:55 PM
                            [**2145-9-22**]  06:25 PM
                            [**2145-9-23**]  02:40 AM
                            [**2145-9-23**]  05:48 AM
                            [**2145-9-23**]  03:05 PM
                            [**2145-9-24**]  02:54 AM
                            [**2145-9-24**]  03:10 AM
                            [**2145-9-24**]  10:24 PM
                            [**2145-9-25**]  05:19 AM
   WBC
   7.1
   10.2
   9.8
   10.4
   Hct
   26.4
   27.7
   25.7
   24.6
   Plt
   33
   28
   22
   29
   Cr
   1.9
   1.9
   2.3
   2.2
   2.0
   TCO2
   21
   20
   20
   21
   18
   Glucose
   123
   243
   187
   211
   174
   Other labs: PT / PTT / INR:41.7/69.4/4.4, ALT / AST:13/29, Alk Phos / T
   Bili:69/7.5, Differential-Neuts:74.5 %, Band:0.0 %, Lymph:12.0 %,
   Mono:6.1 %, Eos:6.7 %, Fibrinogen:115 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.5 g/dL, LDH:275 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Imaging: CXR: improved RL aeraetion
   Microbiology: all blood cultures since [**9-17**] ngtd
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   #Hypoxia - CT with interlobar thickening and airspace disease.  Ddx:
   infection, pulm edema.  BAL negative for blood so diffuse alveolar
   hemorrhage less likely, also given time course TRALI unlikely, however
   CXR daily improvement.  RLung has significant airspace improvement.
   - Continue ceftriaxone  (Day 1= [**9-17**])
   - Diuresis per renal function
   #Oliguria and renal failure:  UOP improved over last 12 hrs.  Cr at 2
   from peak of 2.4.  FeNa ~ 10 and UNa is 124, suggestive of ATN possibly
   secondary to sepsis.
   - Albumin for volume resuscitation, avoid fluids given 13L positive
   - no diuresis at the point given tenuous renal function
   - Continue to monitor UOP
   -Avoid nephrotoxins, hypoperfusion
   #. Sepsis: Known SBP and bacteremia with Klebsiella Pneumoniae. Concern
   for pulmonary infection, abx broadened, now day 6.  Urine Cx negative.
   Will need to complete 2 wk course after first negative blood culture.
   -Continue abx as above
   -f/u cxs, surveillance cultures
   -hold BP meds
   #Peripheral eosinophilia - Pt has interesting form of pulmonary disease
   with rapid progression now improving, possibly related to his
   peripheral eosinophilia.  W/u for helminth infection, and other
   infectious causes of pulmonary disease related to eosinophilia.
   - O&P
   - Sputum for strongyloides and Paragonimus
   - r/o bronchopulmonary aspergillosis, coccidiomycosis
   - HIV
   - drug reaction to antibiotics or other medication,unrelated to
   pulmonary disease
   #Altered mental status: Diff dx is hepatic encephalopathy versus
   delirium from underlying infection.
   - Give lactulose for HE, if unable to take PO, give PR
   - Continue abx as above
   - F/u cxs
   #Hypernatremia: improvingm Na=142 today
   -Continue free water flushes 250q4
   -Continue 75 ccs D5W/hr
   # Anemia: Hct drifting down but now stable. H/o portal gastropathy on
   prior EGD, could be source given elevated INR.
   - HCT [**Hospital1 **]
   - Guiaic all stools
   - Continue PPI
   - maintain active T+S
   - tranfuse for HCt < 21 or further precipitous drop.
   # Coagulopathy: Stable
   - Coags daily
   # ESLD
   - Follow liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   # FEN: IVF for hypernatremia, [**Hospital1 **] lytes, getting TF
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: Double lumen PICC, PIVs, A line
   # CODE: Full
   # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-25**] 01:03 AM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-9-20**] 09:00 AM
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-26 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal - continue albumin, Give bicarb if <16, no red blood cell casts
   - Liver - hold albumin, give IVF
   - decided to continue albumin as it has reduced our need to give IVF.
   - no weaning off vent given MS is limiting factor.
   - PM Cr = 2.1, compared to 2.2 in AM.  UOP ~ 50cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-23**] 08:00 PM
   Ciprofloxacin - [**2145-9-24**] 12:00 AM
   Ceftriaxone - [**2145-9-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-9-25**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-26**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 89 (83 - 95) bpm
   BP: 105/47(67) {101/44(64) - 128/60(84)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 87 kg
           Total In:
                                                                  5,329 mL
                                                                  2,268 mL
   PO:
           TF:
                                                                  1,689 mL
                                                                    542 mL
   IVF:
                                                                  1,850 mL
                                                                  1,026 mL
   Blood products:
                                                                    150 mL
                                                                    200 mL
   Total out:
                                                                  4,550 mL
                                                                    495 mL
   Urine:
                                                                  1,250 mL
                                                                    495 mL
   NG:
   Stool:
                                                                  2,300 mL
   Drains:
   Balance:
                                                                    779 mL
                                                                  1,773 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 733 (682 - 826) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.40/30/95.[**Numeric Identifier **]/18/-4
   Ve: 11.6 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Cardiovascular: Gen: jaundiced, intubated, sedated
   end expiratory crackles
   3/6 systolic murmur
   distended abd, + fluid wave, minimal BS
   2+ edema
   unresponsive to sternal rub, blinds, turns head
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   22 K/uL
   8.0 g/dL
   209 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   57 mg/dL
   117 mEq/L
   145 mEq/L
   23.3 %
   10.1 K/uL
        [image002.jpg]
                            [**2145-9-23**]  05:48 AM
                            [**2145-9-23**]  03:05 PM
                            [**2145-9-24**]  02:54 AM
                            [**2145-9-24**]  03:10 AM
                            [**2145-9-24**]  10:24 PM
                            [**2145-9-25**]  05:19 AM
                            [**2145-9-25**]  03:32 PM
                            [**2145-9-25**]  03:55 PM
                            [**2145-9-26**]  02:52 AM
                            [**2145-9-26**]  02:53 AM
   WBC
   10.2
   9.8
   10.4
   10.1
   Hct
   27.7
   25.7
   24.6
   23.3
   Plt
   28
   22
   29
   22
   Cr
   2.3
   2.2
   2.0
   2.1
   1.8
   TCO2
   20
   21
   18
   18
   19
   Glucose
   187
   211
   174
   234
   209
   Other labs: PT / PTT / INR:41.3/71.0/4.4, ALT / AST:15/31, Alk Phos / T
   Bili:72/7.6, Differential-Neuts:79.2 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.1 %, Eos:5.9 %, Fibrinogen:115 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:4.2 g/dL, LDH:264 IU/L, Ca++:10.1 mg/dL, Mg++:3.8 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR: LLL opacity
   Microbiology: no new micro
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.
   #Hypoxia - CT with interlobar thickening and airspace disease.  Ddx:
   infection, pulm edema.  BAL negative for blood so diffuse alveolar
   hemorrhage less likely, also given time course TRALI unlikely, however
   CXR daily improvement.  RLung has significant airspace improvement.
   - Continue ceftriaxone- Day [**6-15**]  (Day 1= [**9-20**]  - day of first
   negative culture)
   - Diuresis per renal function
   #Oliguria and renal failure:  UOP improved over last 12 hrs.  Cr at 1.8
   from peak of 2.4.
   - Albumin for volume resuscitation, avoid fluids given 13L positive
   - no diuresis at the point given tenuous renal function
   - Continue to monitor UOP
   -Avoid nephrotoxins, hypoperfusion
   #. Sepsis: Known SBP and bacteremia with Klebsiella Pneumoniae. Concern
   for pulmonary infection, abx broadened to vanco, cipro, ceftriaxone,
   now day 7.  Urine Cx negative.  Will need to complete 2 wk course after
   first negative blood culture.
   -Continue abx as above
   -f/u cxs, surveillance cultures
   -hold BP meds
   #Peripheral eosinophilia - Pt has interesting form of pulmonary disease
   with rapid progression now improving, possibly related to his
   peripheral eosinophilia.  W/u for helminth infection, and other
   infectious causes of pulmonary disease related to eosinophilia.
   - O&P
   -f/u Sputum for strongyloides
   -f/u  r/o bronchopulmonary aspergillosis
   - or could be a drug reaction to antibiotics or other
   medication,unrelated to pulmonary disease
   #Altered mental status: Diff dx is hepatic encephalopathy versus
   delirium from underlying infection.
   - Give lactulose for HE, if unable to take PO, give PR
   - Continue abx as above
   - F/u cxs
   #Hypernatremia: improvingm Na=145 today
   -Continue free water flushes 250q4
   -Continue 75 ccs D5W/hr
   - reduce lactulose to q 6 hrs to  maintain good BMs.
   # Anemia: Hct drifting down but now stable. H/o portal gastropathy on
   prior EGD, could be source given elevated INR.
   - HCT [**Hospital1 **]
   - Guiaic all stools
   - Continue PPI
   - maintain active T+S
   - tranfuse for HCt < 21 or further precipitous drop.
   # Coagulopathy: Stable
   - Coags daily
   # ESLD
   - Follow liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   # FEN: IVF for hypernatremia, [**Hospital1 **] lytes, getting TF
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: Double lumen PICC, PIVs, A line
   # CODE: Full
   # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-26**] 03:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-26 10:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure in setting of ETOH cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   - Creat stable, urine output adequate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-23**] 08:00 PM
   Ciprofloxacin - [**2145-9-24**] 12:00 AM
   Ceftriaxone - [**2145-9-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-26**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 89 (83 - 95) bpm
   BP: 105/47(67) {101/44(64) - 128/60(84)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 87 kg
           Total In:
                                                                  5,329 mL
                                                                  2,440 mL
   PO:
           TF:
                                                                  1,689 mL
                                                                    693 mL
   IVF:
                                                                  1,850 mL
                                                                  1,047 mL
   Blood products:
                                                                    150 mL
                                                                    200 mL
   Total out:
                                                                  4,550 mL
                                                                    555 mL
   Urine:
                                                                  1,250 mL
                                                                    555 mL
   NG:
   Stool:
                                                                  2,300 mL
   Drains:
   Balance:
                                                                    779 mL
                                                                  1,885 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 620 (620 - 826) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.40/30/95.[**Numeric Identifier **]/18/-4
   Ve: 13.3 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   22 K/uL
   209 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   57 mg/dL
   117 mEq/L
   145 mEq/L
   23.3 %
   10.1 K/uL
        [image002.jpg]
                            [**2145-9-23**]  05:48 AM
                            [**2145-9-23**]  03:05 PM
                            [**2145-9-24**]  02:54 AM
                            [**2145-9-24**]  03:10 AM
                            [**2145-9-24**]  10:24 PM
                            [**2145-9-25**]  05:19 AM
                            [**2145-9-25**]  03:32 PM
                            [**2145-9-25**]  03:55 PM
                            [**2145-9-26**]  02:52 AM
                            [**2145-9-26**]  02:53 AM
   WBC
   10.2
   9.8
   10.4
   10.1
   Hct
   27.7
   25.7
   24.6
   23.3
   Plt
   28
   22
   29
   22
   Cr
   2.3
   2.2
   2.0
   2.1
   1.8
   TCO2
   20
   21
   18
   18
   19
   Glucose
   187
   211
   174
   234
   209
   Other labs: PT / PTT / INR:41.3/71.0/4.4, ALT / AST:15/31, Alk Phos / T
   Bili:72/7.6, Differential-Neuts:79.2 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.1 %, Eos:5.9 %, Fibrinogen:115 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:4.2 g/dL, LDH:264 IU/L, Ca++:10.1 mg/dL, Mg++:3.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   57M w/ alcoholic ESLD, admitted for variceal bleed c/b hepatic
   encephalopathy.  Transferred to MICU for management of sepsis.
End stage liver disease
   -Liver service following
   -continue lactulose and rifaximin
 SEPSIS
   -cont borderline BP
   -presumed source SBP, Klebsiella PNA
   -cont ceftriaxone
 ALTERED MENTAL STATUS
   -Not improving off of sedation
   -Hepatic encephalopathy presumed dx - cont lactulose
 Respiratory failure
 hypoxemic
   -CT scan with interlobar thickening plus airspace disease
   -Infxn vs. pulm edema
   -Cont abx and diuresis
   -Imaging showing improvement
Peripih eosinophillia with pulmonary infiltrates
   -Agree with w/u for causes pulmonary eosinophilic diseases including
   helminth infxn, L
ffler
s syndrome, and ABPA
   -Also could be drug related though dx of exclusion
 RENAL FAILURE, ACUTE with oliguria
   -Presumed secondary to ATN
   -UOP improving and creat trending downward - 1.8 today
Hypernatremia- improving
   -Cont D5W
   See resident note for remainder of plan.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-26**] 03:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2145-09-27 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - liver: will consider paracentesis next week if continues to
   accumulate ascites, would accept liver transplant now (!), hold albumin
   - renal: will sign off
   - PM labs stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-26**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-9-26**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-27**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 88 (86 - 91) bpm
   BP: 120/50(72) {101/43(60) - 142/62(88)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 87 kg
             Total In:
                                                                  6,154 mL
                                                                  1,604 mL
   PO:
             TF:
                                                                  1,684 mL
                                                                    474 mL
   IVF:
                                                                  2,709 mL
                                                                    570 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,705 mL
                                                                  1,300 mL
   Urine:
                                                                  1,705 mL
                                                                    300 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  3,449 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (600 - 788) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 10.8 L/min
   Physical Examination
   Gen: Lying in bed largely unresponsive, only grimaces with aggressive
   stimulation, otherwise only occasional spontaneous movements.
   HEENT: intubated, PERRL
   CV: Harsh III/VI systolic murmur loudest at RUSB.
   Abd: Tense and protuberant, +BS.
   Ext: 3+ pitting edema in lower extremity, 2+radial, PT and DP pulses
   Labs / Radiology
   CXR:  Little change from yesterday, persistent parencymal
   opacification. Blunting of R costo-phrenic angle.
   26 K/uL
   8.0 g/dL
   180 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.6 mEq/L
   54 mg/dL
   115 mEq/L
   143 mEq/L
   23.3 %
   11.3 K/uL
        [image002.jpg]
                            [**2145-9-24**]  02:54 AM
                            [**2145-9-24**]  03:10 AM
                            [**2145-9-24**]  10:24 PM
                            [**2145-9-25**]  05:19 AM
                            [**2145-9-25**]  03:32 PM
                            [**2145-9-25**]  03:55 PM
                            [**2145-9-26**]  02:52 AM
                            [**2145-9-26**]  02:53 AM
                            [**2145-9-26**]  04:01 PM
                            [**2145-9-27**]  04:18 AM
   WBC
   10.2
   9.8
   10.4
   10.1
   9.6
   11.3
   Hct
   27.7
   25.7
   24.6
   23.3
   23.8
   23.3
   Plt
   28
   22
   29
   22
   26
   26
   Cr
   2.3
   2.2
   2.0
   2.1
   1.8
   1.8
   1.6
   TCO2
   18
   18
   19
   Glucose
   187
   211
   174
   [**Telephone/Fax (3) 8925**]
   180
   Other labs: PT / PTT / INR:35.8/56.4/3.7, ALT / AST:14/27, Alk Phos / T
   Bili:76/8.0, Differential-Neuts:79.2 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.1 %, Eos:5.9 %, Fibrinogen:115 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:3.5 g/dL, LDH:264 IU/L, Ca++:9.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.  Now stabilized
   and off of sedation with improving respiratory status but lagging
   mental status.
   #Altered mental status: Off of sedation over the weekend with little
   improvement in mental status.  Our diff dx is persistent sedation due
   to residual medications in the setting of liver failure vs hepatic
   encephalopathy.  Delirium due to underlying infection now seems less
   likely.
   - Continue to hold sedating medications.
   - Give lactulose and rifaximin for HE, if unable to take PO, give PR
   - Continue abx as above
   #Hypoxia
 Now on pressure support with minimal vent settings, much
   improved from previously requiring assist control.  While he has
   adequate respiratory effort to be extubated, he remains too sedated to
   have a gag reflex.  The patient
s CT showed interlobar thickening and
   airspace disease of unclear significance.  Main Ddx is infection vs
   pulmonary edema.  His CXR is improved but has residual, diffuse
   perenchymal disease.
   - Continue ceftriaxone- Day [**7-16**]  (Day 1= [**9-20**]  - day of first
   negative culture)
   - Diuresis per renal function
   # ESLD: Patient has end stage disease with significant ascites,
   coagulopathy and bilirubinemia.
   - Follow liver recs
   - He will have a paracentesis today for increasing abdominal
   distension.
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   #Oliguria and renal failure:  UOP good, over 100ccs per hour.  Cr at
   1.6 from peak of 2.4.
   - Renal team has signed off.
   - Avoid albumin or fluids, per renal recs.
   - We will restart diuresis today with 20mg IV lasix followed by a lasix
   gtt at 4-10mg/hr, aiming for UOP>150ccs/hr.
   -Avoid nephrotoxins, hypoperfusion
   #. Sepsis: The patient had SBP and bacteremia with Klebsiella
   Pneumoniae. Urine Cx negative.  He will need to complete a 2 wk course
   after first negative blood culture.
   -Continue abx
   -f/u cxs, surveillance cultures
   #Peripheral eosinophilia - Pt has interesting form of pulmonary disease
   with rapid progression now improving, possibly related to his
   peripheral eosinophilia.  While we are doing a w/u for helminth
   infection and other infectious causes of pulmonary disease related to
   eosinophilia, most likely the eosinophilia is a drug reaction.
   - O&P
   -f/u Sputum for strongyloides and blood IgG
   -f/u  r/o bronchopulmonary aspergillosis
   - Could also be a drug reaction to antibiotics or other medication,
   unrelated to pulmonary disease
   #Hypernatremia: resolved with Na=143 today.  However, it was very
   difficult to reach this normal level, so we will continue giving a
   basal amount of free water.
   -Continue free water flushes 250q4
   -Continue 75 ccs D5W/hr
   # Anemia: Hct drifted down but is now stable. H/o portal gastropathy on
   prior EGD, could be source given elevated INR.
   - Guiaic all stools
   - Continue PPI
   - maintain active T+S and tranfuse for HCt < 21 or further precipitous
   drop.
   # Coagulopathy: Stable
   - Coags daily
   # FEN: IVF for hypernatremia, [**Hospital1 **] lytes, getting TF
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: Double lumen PICC, PIVs, A line
   # CODE: Full
   # DISPO: ICU for now, pending ability to extubate
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-27**] 12:22 AM 70 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT: coagulopathic
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: With his wife, who yesterday per nursing was
   not completely aware of the gravity of the patient
s condition.  We
   will update her.
   Code status: Full code
   Disposition: ICU for now

2145-09-28 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Paracentesis: negative
   - On Lasix drip but still overall 2L
   - Liver recs: Ceftriaxone increased, Ursodiol increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-27**] 03:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-9-27**] 12:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-28**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 87 (81 - 91) bpm
   BP: 120/52(75) {106/46(64) - 125/64(83)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 87 kg
             Total In:
                                                                  5,290 mL
                                                                    626 mL
   PO:
             TF:
                                                                  1,683 mL
                                                                    474 mL
   IVF:
                                                                  2,027 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  3,220 mL
                                                                  2,240 mL
   Urine:
                                                                  2,220 mL
                                                                  1,340 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,070 mL
                                                                 -1,614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 669 (107 - 714) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 10.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   7.9 g/dL
   151 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.8 mEq/L
   52 mg/dL
   111 mEq/L
   142 mEq/L
   22.9 %
   12.5 K/uL
        [image002.jpg]
                            [**2145-9-24**]  10:24 PM
                            [**2145-9-25**]  05:19 AM
                            [**2145-9-25**]  03:32 PM
                            [**2145-9-25**]  03:55 PM
                            [**2145-9-26**]  02:52 AM
                            [**2145-9-26**]  02:53 AM
                            [**2145-9-26**]  04:01 PM
                            [**2145-9-27**]  04:18 AM
                            [**2145-9-27**]  10:17 PM
                            [**2145-9-28**]  03:46 AM
   WBC
   9.8
   10.4
   10.1
   9.6
   11.3
   12.5
   Hct
   25.7
   24.6
   23.3
   23.8
   23.3
   22.9
   Plt
   22
   29
   22
   26
   26
   27
   Cr
   2.2
   2.0
   2.1
   1.8
   1.8
   1.6
   1.4
   1.2
   TCO2
   18
   19
   Glucose
   [**Telephone/Fax (3) 8945**]51
   Other labs: PT / PTT / INR:32.6/59.0/3.3, ALT / AST:14/32, Alk Phos / T
   Bili:83/10.6, Differential-Neuts:79.2 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.1 %, Eos:5.9 %, Fibrinogen:115 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:3.5 g/dL, LDH:264 IU/L, Ca++:9.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.9
   mg/dL
   Fluid analysis / Other labs: Peritoneal Fluid:
   WBC  75
     Poly  15
     Lymph  70
     Mono  11
     EOs  0
     Mesothe: 2
     Macroph: 2
   RBC  60
   Imaging: CXR:
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.  Now stabilized
   and off of sedation with improving respiratory status but lagging
   mental status.
   #Altered mental status: Off of sedation over the weekend with little
   improvement in mental status.  Differential: persistent sedation due to
   residual medications in the setting of liver failure vs hepatic
   encephalopathy.  Delirium due to underlying infection now seems less
   likely.
   - Continue to hold sedating medications.
   - Give lactulose and rifaximin for HE, if unable to take PO, give PR
   - Continue abx as above
   #Hypoxia
 Now on pressure support with minimal vent settings, much
   improved from previously requiring assist control.  While he has
   adequate respiratory effort to be extubated, he remains too sedated to
   have a gag reflex.  CT showed interlobar thickening and airspace
   disease of unclear significance.  Main Ddx is infection vs pulmonary
   edema.  His CXR is improved but has residual, diffuse perenchymal
   disease.
   - Continue ceftriaxone- Day [**7-16**]  (Day 1= [**9-20**]  - day of first
   negative culture)
   - Diuresis per renal function
   # ESLD: Patient has end stage disease with significant ascites,
   coagulopathy and bilirubinemia.  Negative paracentesis.  Ursodiol
   increased.
   - f/u liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   #Oliguria and renal failure:  UOP good- 100ccs per hour.  Cr
   normalized.  On Lasix gtt.
   - Avoid albumin or fluids, per renal recs.
   - Continue Lasix gtt with goal >100cc/hr and overall net negative
   #. Sepsis: The patient had SBP and bacteremia with Klebsiella
   Pneumoniae. Urine Cx negative.  He will need to complete a 2 wk course
   after first negative blood culture.
   -Continue abx
   -f/u cxs, surveillance cultures
   #Peripheral eosinophilia - Likely Pt has interesting form of pulmonary
   disease with rapid progression now improving, possibly related to his
   peripheral eosinophilia.  While we are doing a w/u for helminth
   infection and other infectious causes of pulmonary disease related to
   eosinophilia, most likely the eosinophilia is a drug reaction.
   - f/u Sputum for strongyloides and blood IgG
   - f/u  r/o bronchopulmonary aspergillosis
   - Could also be a drug reaction to antibiotics or other medication,
   unrelated to pulmonary disease
   # Hypernatremia: resolved
   - D/c D5W
   - Continue free water flushes 250q4
   - PM lytes
   # Anemia: Hct drifted down but is now stable. H/o portal gastropathy on
   prior EGD, could be source given elevated INR.
   - Guiaic all stools
   - Continue PPI
   - maintain active T+S and tranfuse for HCt < 21 or further precipitous
   drop.
   # Coagulopathy: Stable
   - Coags daily
   # FEN: [**Hospital1 **] lytes, getting TF
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: Double lumen PICC, PIVs, A line
   # CODE: Full
   # DISPO: ICU for now, pending ability to extubate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-29 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Liver recommends broadening antibiotic coverage based on CXR.
   Radiology read is little change, patient afebrile, therefore left on
   just ceftriaxone.
   - ABG on minimal vent settins at 2:45pm: 7.45/33/120/24
   - great UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-28**] 04:29 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 88 (82 - 91) bpm
   BP: 117/50(73) {105/44(62) - 131/61(85)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 87 kg
             Total In:
                                                                  3,053 mL
                                                                    639 mL
   PO:
             TF:
                                                                  1,679 mL
                                                                    524 mL
   IVF:
                                                                  1,374 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  6,305 mL
                                                                    920 mL
   Urine:
                                                                  5,045 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,252 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (564 - 720) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/34/140/24/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   32 K/uL
   7.7 g/dL
   164 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.6 mEq/L
   53 mg/dL
   110 mEq/L
   141 mEq/L
   22.6 %
   11.8 K/uL
        [image002.jpg]
                            [**2145-9-26**]  02:52 AM
                            [**2145-9-26**]  02:53 AM
                            [**2145-9-26**]  04:01 PM
                            [**2145-9-27**]  04:18 AM
                            [**2145-9-27**]  10:17 PM
                            [**2145-9-28**]  03:46 AM
                            [**2145-9-28**]  01:53 PM
                            [**2145-9-28**]  02:04 PM
                            [**2145-9-29**]  02:55 AM
                            [**2145-9-29**]  02:57 AM
   WBC
   10.1
   9.6
   11.3
   12.5
   11.8
   Hct
   23.3
   23.8
   23.3
   22.9
   22.6
   Plt
   22
   26
   26
   27
   32
   Cr
   1.8
   1.8
   1.6
   1.4
   1.2
   1.2
   1.0
   TCO2
   19
   24
   24
   Glucose
   [**Telephone/Fax (3) **]45
   151
   182
   164
   Other labs: PT / PTT / INR:31.0/55.2/3.1, ALT / AST:15/33, Alk Phos / T
   Bili:81/10.9, Differential-Neuts:79.2 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.1 %, Eos:5.9 %, Fibrinogen:115 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:3.5 g/dL, LDH:264 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Imaging: CXR
   Assessment and Plan
   57 yo M with h/o of alcoholic ESLD, admitted for evaluation of variceal
   bleed, complicated by hepatic encephalopathy, anemia, and transferred
   to the MICU for sepsis from multiple possible sources.  Now stabilized
   and off of sedation with improving respiratory status but lagging
   mental status.
   #Altered mental status: Off of sedation over the weekend with little
   improvement in mental status.  Differential: persistent sedation due to
   residual medications in the setting of liver failure vs hepatic
   encephalopathy.  Delirium due to underlying infection now seems less
   likely.
   - Continue to hold sedating medications.
   - Give lactulose and rifaximin for HE, if unable to take PO, give PR
   - Continue abx as above
   #Hypoxia
 Now on pressure support with minimal vent settings, much
   improved from previously requiring assist control.  While he has
   adequate respiratory effort to be extubated, he remains too sedated to
   have a gag reflex.  CT showed interlobar thickening and airspace
   disease of unclear significance.  Main Ddx is infection vs pulmonary
   edema.  His CXR is improved but has residual, diffuse perenchymal
   disease.
   - Continue ceftriaxone- Day [**7-16**]  (Day 1= [**9-20**]  - day of first
   negative culture)
   - Diuresis per renal function
   - SBT and wean vent as tolerated
   # ESLD: Patient has end stage disease with significant ascites,
   coagulopathy and bilirubinemia.  Negative paracentesis.  Ursodiol
   increased.
   - f/u liver recs
   - continue lactulose and rifaximin but hold spironolactone, lasix,
   nadolol
   #Oliguria and renal failure:  UOP good- 100ccs per hour.  Cr
   normalized.  On Lasix gtt.
   - Avoid albumin or fluids, per renal recs.
   - Continue Lasix gtt with goal >100cc/hr and overall net negative
   #. Sepsis: The patient had SBP and bacteremia with Klebsiella
   Pneumoniae. Urine Cx negative.  On Ceftriaxone, first negative blood
   culture [**9-20**], therefore will need abx until [**10-2**] (2 wk course after
   first negative blood culture)
   -Continue abx
   -f/u cxs, surveillance cultures
   #Peripheral eosinophilia - Likely Pt has interesting form of pulmonary
   disease with rapid progression now improving, possibly related to his
   peripheral eosinophilia.  While we are doing a w/u for helminth
   infection and other infectious causes of pulmonary disease related to
   eosinophilia, most likely the eosinophilia is a drug reaction.
   - f/u Sputum for strongyloides and blood IgG
   - f/u  r/o bronchopulmonary aspergillosis
   - Could also be a drug reaction to antibiotics or other medication,
   unrelated to pulmonary disease
   # Hypernatremia: resolved
   - D/c D5W
   - Continue free water flushes 250q4
   - PM lytes
   # Anemia: Hct drifted down but is now stable. H/o portal gastropathy on
   prior EGD, could be source given elevated INR.
   - Guiaic all stools
   - Continue PPI
   - maintain active T+S and tranfuse for HCt < 21 or further precipitous
   drop.
   # Coagulopathy and Thrombocytopenia: Stable
   - Coags and platelets daily
   # FEN: [**Hospital1 **] lytes, getting TF
   # PPX: PPI [**Hospital1 **], pneumoboots, lactulose
   # ACCESS: Double lumen PICC, A line
   # CODE: Full
   # DISPO: ICU for now, pending ability to extubate
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-29**] 04:12 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-30 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2145-09-30 10:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-9-29**] 02:55 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-29**] 12:43 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema, icteric
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Constipation, distended
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-9-30**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.7
C (96.2
   HR: 90 (85 - 96) bpm
   BP: 109/48(69) {109/45(67) - 137/59(85)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 87 kg
             Total In:
                                                                  2,106 mL
                                                                    430 mL
   PO:
             TF:
                                                                    794 mL
                                                                    122 mL
   IVF:
                                                                  1,122 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  4,585 mL
                                                                  2,960 mL
   Urine:
                                                                  3,565 mL
                                                                  1,960 mL
   NG:
   Stool:
                                                                  1,020 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -2,479 mL
                                                                 -2,530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 648 (648 - 648) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.48/34/114/26/3
   Ve: 10.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : mid insp, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   33 K/uL
   128 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   56 mg/dL
   108 mEq/L
   142 mEq/L
   21.3 %
   9.1 K/uL
        [image002.jpg]
                            [**2145-9-28**]  03:46 AM
                            [**2145-9-28**]  01:53 PM
                            [**2145-9-28**]  02:04 PM
                            [**2145-9-29**]  02:55 AM
                            [**2145-9-29**]  02:57 AM
                            [**2145-9-29**]  03:28 PM
                            [**2145-9-29**]  04:22 PM
                            [**2145-9-29**]  09:35 PM
                            [**2145-9-30**]  02:51 AM
                            [**2145-9-30**]  03:00 AM
   WBC
   12.5
   11.8
   9.1
   Hct
   22.9
   22.6
   21.3
   Plt
   27
   32
   33
   Cr
   1.2
   1.2
   1.0
   1.0
   1.0
   TCO2
   24
   24
   25
   25
   26
   Glucose
   151
   182
   164
   142
   128
   Other labs: PT / PTT / INR:31.6/55.3/3.2, ALT / AST:16/37, Alk Phos / T
   Bili:82/11.7, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %,
   Mono:3.0 %, Eos:1.0 %, Fibrinogen:115 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:3.5 g/dL, LDH:264 IU/L, Ca++:9.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   Continues to improve. Extubated successfully. MS has improved - likely
   is at baseline level of encephalopathy.  Will complete CTX course [**10-2**]
   (2 days). Hct continues to drift down - likely due to slow oozing from
   portal gastropathy.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-9-30**] 02:37 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2145-9-22**] 01:50 PM
   PICC Line - [**2145-9-23**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes